US07601711B2
Cyclopropylmethyl-5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid (3-fluoro-oxetan-3-ylmethyl)-amide
The title compound was synthesized in analogy to example 51, from 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid (3-fluoro-oxetan-3-ylmethyl)-amide, sodium hydride and cyclopropylmethyl bromide in N,N-dimethylformamide, to give the desired product as a colorless foam (40%).

reactant | 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid (3-fluoro-oxetan-3-ylmethyl)-amide | FC1(COC1)CNC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C(C)C | C21H27FN4O3
reactant | sodium hydride | [H-].[Na+]
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Cyclopropylmethyl-5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid (3-fluoro-oxetan-3-ylmethyl)-amide | 40% | FC1(COC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C(C)C)CC1CC1 | C25H33FN4O3
